US05328920
3-[(3-Dimethylaminopropyl)-4-pyridinylamino]-6-fluorobenzo[b]thiophene
6-Fluoro-3-(4-pyridinylamino)benzo[b]thiophene (3.30 g, 13.5 mmol) was added portionwise as a powder to a suspension of sodium hydride (60% oil dispersion, 1.35 g, 33.8 mmol, washed with hexanes) in 50 mL dimethylformamide. After the anion formation was completed, 3-dimethylaminopropyl chloride hydrochloride (2.56 g, 16.2 mmol) was added as a powder and the resultant mixture was stirred at 70°-75° C. for two hours. After cooling, the reaction mixture was poured into ice-water and extracted with ethyl acetate. The organic extract was washed with water and saturated sodium chloride solution and dried (anhydrous magnesium sulfate), filtered and concentrated to 4.6 g of a brown oil. Elution through silica with 10% methanol in dichloromethane via flash column chromatography yielded 3.3 g of a yellow oil. Kugelrohr distillation (210°-220°/0.1 mm Hg) yielded 2.8 g of a clear colorless oil which eventually solidified to a white solid, mp 82°-84°.

reactant | 6-Fluoro-3-(4-pyridinylamino)benzo[b]thiophene | 13.5 mmol, 3.30 g | FC=1C=CC2=C(SC=C2NC2=CC=NC=C2)C1 | C13H9FN2S
reactant | sodium hydride | 33.8 mmol, 1.35 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride hydrochloride | 16.2 mmol, 2.56 g | Cl.CN(CCCCl)C
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-[(3-Dimethylaminopropyl)-4-pyridinylamino]-6-fluorobenzo[b]thiophene | 3.3 g | CN(CCCN(C=1C2=C(SC1)C=C(C=C2)F)C2=CC=NC=C2)C | C18H20FN3S
